US05371093
α-[1-(2-Phenylethyl)-4-piperidinyl]-3benzo[b]thiophenemethanol
Dissolve n-butyllithium (9.4 mL of a 2.5M solution in hexane, 23.46 mmol) in anhydrous ethyl ether (100 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, a solution of 3-bromobenzo[b]thiophene (5.0 g, 23.46 mmol) in anhydrous ethyl ether (50 mL). Stir at -78° C. for 30 minutes then add, by dropwise addition, a solution of 1-(2-phenylethyl)-4-piperidinecarboxaldehyde (5.10 g, 23.46 mmol) in anhydrous ethyl ether (50 mL). Stir for 5 hours at -78° C., remove the ice bath and stir for an additional 1 hour. Quench with saturated ammonium chloride (150 mL) and stir overnight. Separate the organic phase and extract the aqueous phase with ethyl ether and methylene chloride. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify by recrystallization (isopropanol) to give the title compound as an off-white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromobenzo[b]thiophene | 23.46 mmol, 5.0 g | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | 1-(2-phenylethyl)-4-piperidinecarboxaldehyde | 23.46 mmol, 5.10 g | C1(=CC=CC=C1)CCN1CCC(CC1)C=O | C14H19NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | α-[1-(2-Phenylethyl)-4-piperidinyl]-3benzo[b]thiophenemethanol | C1(=CC=CC=C1)CCN1CCC(CC1)C(O)C=1C2=C(SC1)C=CC=C2 | C22H25NOS
